US04532240
6-Methyl-5-(4-phenyl-1-piperazinyl)-2,4(1H, 3H)-pyrimidinedione, hydrate (13:1)
A mixture of 20.5 g (0.10 mole) of 5-bromo-6-methyl-2,4(1H, 3H)-pyrimidinedione and 10.3 g (0.11 mole) of potassium fluoride dihydrate in 150 ml of 1-phenylpiperazine was heated under reflux at 105° for 72 hours and cooled. The reaction mixture was poured into 200 ml of ice water. The solid was collected, washed with water, and recrystallized from methanol to give 7.12 g of the product as a white solid, mp>300° C.

reactant | 5-bromo-6-methyl-2,4(1H, 3H)-pyrimidinedione | 0.10 mole, 20.5 g | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
reactant | potassium fluoride dihydrate | 0.11 mole, 10.3 g | O.O.[F-].[K+]
reactant | 1-phenylpiperazine | 150 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 6-Methyl-5-(4-phenyl-1-piperazinyl)-2,4(1H, 3H)-pyrimidinedione, hydrate | 7.12 g | O.CC1=C(C(NC(N1)=O)=O)N1CCN(CC1)C1=CC=CC=C1 | InChI=1S/C15H18N4O2.H2O/c1-11-13(14(20)17-15(21)16-11)19-9-7-18(8-10-19)12-5-3-2-4-6-12;/h2-6H,7-10H2,1H3,(H2,16,17,20,21);1H2
